US08895547B2
[(S)-1-(2-Fluorophenyl)ethyl]-(5,6,6-trimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine, stereomer 1
In a round-bottom flask, 92 mg of 5-(3-bromophenyl)-2-ethoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide stereomer 1 were dissolved in 1.3 ml of dichloromethane and admixed with 45 mg of (S)-1-(2-fluorophenyl)ethylamine. After stirring at room temperature and under a gentle argon stream for 18 hours, the conversion was checked by LCMS. Since it was incomplete, the reaction mixture was taken up in 1.5 ml of THF and stirred at 50° C. for 5 hours. After the removal of the solvent under reduced pressure, the oily residue was stirred at 95° C. for 2 hours and then at room temperature for 48 hours. According to LCMS, the reaction remained incomplete. The residue was dissolved under inert gas in 2 ml of ethanol and, with addition of 50 mg of 10% Pd/C, stirred under a hydrogen atmosphere at room temperature for 16 hours. After the addition of a further 50 mg of 10% Pd/C, the reaction mixture was stirred under the same conditions for a further 24 hours. After filtration to remove solid constituents, the filtrate was concentrated by rotary evaporation and the residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was lyophilized. This gave the product (45.7 mg) with a molecular weight of 390.5 g/mol (C20H23FN2O3S); MS (ESI): m/e=391 (M+H+).

reactant | (S)-1-(2-fluorophenyl)ethylamine | 45 mg | FC1=C(C=CC=C1)[C@H](C)N | C8H10FN
reactant | 5-(3-bromophenyl)-2-ethoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 92 mg | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)OCC)(=O)=O)C | C14H18BrNO4S
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | [(S)-1-(2-Fluorophenyl)ethyl]-(5,6,6-trimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine | 45.7 mg | FC1=C(C=CC=C1)[C@H](C)NC=1OC(C(S(N1)(=O)=O)(C1=CC=CC=C1)C)(C)C | C20H23FN2O3S
